* test_nmos_L180_W180
.include ../freePDK45nm_spice/freePDK45nm_TT.l
Mn1 2 1 0 0 NMOS_VTL L=180n W=180n
Vds 2 0 0.5
Vgs 1 0 0.5
.dc Vds 0 1 0.02
.end
