* test_pmos_comprehensive
.include ../freePDK45nm_spice/freePDK45nm_TT.l
Mp1 2 1 0 0 PMOS_VTL L=45n W=180n
Vds 2 0 -0.5
Vgs 1 0 -0.7
.dc Vds 0 -1 -0.05
.end
