* Test single bias point with freePDK45
.include ../freePDK45nm_spice/freePDK45nm_TT.l
Mn1 2 1 0 0 NMOS_VTL L=45n W=90n
Vds 2 0 0.1
Vgs 1 0 0.5
.op
.print dc v(1) v(2) i(Vds)
.end
