* hoilee_affc_pin_3 -- AnalogGym topology on TSMC5 BSIM-CMG (LEVEL=72)
* Connectivity and mirror ratios are the shipped ones; geometry is re-designed for 0.65 V FinFET.
.subckt hoilee_affc_pin_3 gnda vdda vinn vinp vout
Nm62 net050 net2 VDDA VDDA psvt_l109_f1 m=3   $ HSBCM_PMOS
Nm59 net2 net2 VDDA VDDA psvt_l109_f1 m=3   $ HSBCM_PMOS
Nm12 VOUT net050 VDDA VDDA psvt_l20_f6 m=16   $ gmf2_PMOS
Nm7 net049 net013 VDDA VDDA psvt_l13_f2 m=1   $ BIASCM_PMOS
Nm11 net043 net050 VDDA VDDA psvt_l68_f4 m=2   $ gm2_PMOS
Nm6 net050 VOUTN VDDA VDDA psvt_l13_f2 m=1   $ BIASCM_PMOS
Nm5 VOUTN VOUTN VDDA VDDA psvt_l13_f2 m=1   $ BIASCM_PMOS
Nm10 net063 VINP net31 net31 psvt_l135_f3 m=4   $ gm1_PMOS
Nm9 DM_2 VINN net31 net31 psvt_l135_f3 m=4   $ gm1_PMOS
Nm4 net31 net013 VDDA VDDA psvt_l13_f2 m=2   $ BIASCM_PMOS
Nm3 VB3 net013 VDDA VDDA psvt_l13_f2 m=1   $ BIASCM_PMOS
Nm2 DM_1 net013 VDDA VDDA psvt_l13_f2 m=1   $ BIASCM_PMOS
Nm1 VB4 net013 VDDA VDDA psvt_l13_f2 m=1   $ BIASCM_PMOS
Nm0 net013 net013 VDDA VDDA psvt_l13_f2 m=1   $ BIASCM_PMOS
Nm64 net1 VB4 GNDA GNDA nsvt_l42_f4 m=48   $ BIASCM_NMOS
Nm63 net050 VB3 net1 GNDA nsvt_l135_f6 m=1   $ gma_NMOS
Nm61 net3 VB4 GNDA GNDA nsvt_l42_f4 m=48   $ BIASCM_NMOS
Nm60 net2 VB3 net3 GNDA nsvt_l135_f6 m=1   $ gma_NMOS
Nm25 VOUT net049 GNDA GNDA nsvt_l135_f2 m=4   $ gm3_NMOS
Nm23 net049 net043 GNDA GNDA nsvt_l6_f12 m=1944   $ LOAD2_NMOS
Nm22 net043 net043 GNDA GNDA nsvt_l6_f12 m=1944   $ LOAD2_NMOS
Nm20 DM_2 VB4 GNDA GNDA nsvt_l42_f4 m=96   $ BIASCM_NMOS
Nm16 VOUTN VB3 DM_2 GNDA nsvt_l42_f4 m=48   $ BIASCM_NMOS
Nm21 net063 VB4 GNDA GNDA nsvt_l42_f4 m=96   $ BIASCM_NMOS
Nm17 net050 VB3 net063 GNDA nsvt_l42_f4 m=48   $ BIASCM_NMOS
Nm18 net54 VB4 GNDA GNDA nsvt_l42_f4 m=48   $ BIASCM_NMOS
Nm15 VB3 VB3 GNDA GNDA nsvt_l42_f4 m=12   $ BIASCM_NMOS
Nm13 VB4 VB3 net54 GNDA nsvt_l42_f4 m=48   $ BIASCM_NMOS
Nm19 net56 VB4 GNDA GNDA nsvt_l42_f4 m=48   $ BIASCM_NMOS
Nm14 DM_1 VB3 net56 GNDA nsvt_l42_f4 m=48   $ BIASCM_NMOS
I0 net013 GNDA 3.2e-07
C1 VOUT net1 4e-12
C0 net049 VOUT 2e-12
.ends hoilee_affc_pin_3
